US08877760B2
To a solution of 2-amino-3-cyanopyridine (1.00 g, 8.40 mmol) in pyridine (8 mL) and TEA (0.8 mL) in a sealed tube, H2S gas was bubbled through for 5 min. It was then stirred at room temperature for 20 h. The mixture was concentrated in vacuo to dryness. The residue was dissolved in MeOH (10 mL). To the solution, aq. H2O2 (30%, 3 mL) was added. The mixture was then stirred at room temperature for 5 h, during which time, solids precipitated out. The solids were collected by filtration, dried on vacuum to give isothiazolo[3,4-b]pyridin-3-amine (860 mg).

reactant | 2-amino-3-cyanopyridine | 8.40 mmol, 1.00 g | NC1=NC=CC=C1C#N | C6H5N3
reactant | H2S | S | H2S
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | isothiazolo[3,4-b]pyridin-3-amine | 860 mg | N=1SC(=C2C1N=CC=C2)N | C6H5N3S
